US07605123B2
8.15 Synthesis of 4-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-butyric acid
4-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-butyric acid ethyl ester (1.07 g, 4.0 mmol) was dissolved in 1M NaOH (10 mL) and the reaction was stirred for 2 h. Crude reaction was diluted with sat. NaCl (40 mL), acidified to pH ˜2 with conc. HCl, washed CH2Cl2 (2×50 mL), dried MgSO4, and evaporated to dryness to afford 3 a clear oil (0.945 g, 94% yield).

reactant | 4-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-butyric acid ethyl ester | 4.0 mmol, 1.07 g | C(C)OC(CCCOCCOCCOCCOC)=O | C13H26O6
reactant | HCl | Cl | ClH
solvent | NaOH | 1M, 10 mL | [OH-].[Na+]
solvent | NaCl | 40 mL | [Na+].[Cl-]
product | 4-{2-[2-(2-Methoxy-ethoxy)-ethoxy]-ethoxy}-butyric acid | 0.945 g, 94% yield | COCCOCCOCCOCCCC(=O)O | C11H22O6
